US06548713B2
A mixture of 20 mmol of adipic anhydride, 2 mmol of 1-octene, 0.04 mmol of manganese (II) acetate, 0.002 mmol of cobalt (II) 0 acetate and 2 ml of acetic acid was stirred at 90° C. in an atmosphere of a gaseous mixture of nitrogen and oxygen (9:1) (1 atm=0.101 MPa) for 3 hours. The resulting reaction mixture was analyzed to find that 2-octyladipic anhydride and 2,5-dioctyladipic anhydride were produced in yields of 29% and 2%, respectively, with a conversion from 1-octene of 63%.

reactant | adipic anhydride | 20 mmol | C1(CCCCC(=O)O1)=O | C6H8O3
reactant | 1-octene | 2 mmol | C=CCCCCCC | C8H16
reactant | oxygen | O=O | O2
reactant | 2-octyladipic anhydride | C(CCCCCCC)C1C(=O)OC(CCC1)=O | C14H24O3
catalyst | manganese (II) acetate | 0.04 mmol | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2,5-dioctyladipic anhydride | C(CCCCCCC)C1C(=O)OC(C(CC1)CCCCCCCC)=O | C22H40O3
